### PR TITLE
feat: short games have ℕ birthdays

### PR DESCRIPTION
**Pull request by tristan-f-r**
This is proved via explicit (noncomputable) Finset construction, which can be later used to formalize some known values to https://oeis.org/A065401.

### CODE REVIEW

File: CombinatorialGames/Game/Birthday.lean [hunk 1]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+
+@[simp] theorem birthday_finset_one_card : (birthday_finset 1).card = 4 := by simp [birthday_finset]
+
+@[simp]
+theorem birthday_finset_card (n : ℕ) :
+    (birthday_finset.{u} (n + 1)).card = 4 ^ (birthday_finset.{u} n).card := by
+  rw [birthday_finset, Finset.card_map, Finset.card_product, Finset.card_powerset, ← mul_pow]
+  simp only [Nat.reduceMul]
+
+theorem birthday_finset_option {x : IGame} {n : ℕ} (hnx : x ∈ birthday_finset (n + 1))
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: You could merge both implicit arguments as `{x y : IGame}`.

File: CombinatorialGames/Game/Birthday.lean [hunk 2]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+    ⟨fun ⟨a, b⟩ => {a | b}ᴵ, fun a b hab => by aesop⟩
+
+theorem birthday_finset_mem_succ_iff {x : IGame} {n : ℕ} :
+  x ∈ birthday_finset (n + 1) ↔
+    ∃ l r, (l ⊆ birthday_finset n ∧ r ⊆ birthday_finset n) ∧ {↑l | ↑r}ᴵ = x := by
+  simp [birthday_finset]
+
+@[simp] theorem birthday_finset_zero : birthday_finset 0 = {0} := rfl
+
+@[simp] theorem birthday_finset_one_card : (birthday_finset 1).card = 4 := by simp [birthday_finset]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
@[simp] theorem card_birthday_finset_one : (birthday_finset 1).card = 4 := by simp [birthday_finset]
```

File: CombinatorialGames/Game/Birthday.lean [hunk 3]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
   apply @small_subset _ _ _ _ (small_setOf_birthday_le o)
   exact fun x (hx : x.birthday < _) ↦ le_of_lt hx
 
--- TODO: short game iff finite birthday
+/-- The finset of all games with birthday ≤ n. -/
+noncomputable def birthday_finset : ℕ → Finset IGame.{u}
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: Correct me if I'm wrong, but shouldn't this be `birthdayFinset`?

File: CombinatorialGames/Game/Birthday.lean [hunk 4]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+  x ∈ birthday_finset (n + 1) ↔
+    ∃ l r, (l ⊆ birthday_finset n ∧ r ⊆ birthday_finset n) ∧ {↑l | ↑r}ᴵ = x := by
+  simp [birthday_finset]
+
+@[simp] theorem birthday_finset_zero : birthday_finset 0 = {0} := rfl
+
+@[simp] theorem birthday_finset_one_card : (birthday_finset 1).card = 4 := by simp [birthday_finset]
+
+@[simp]
+theorem birthday_finset_card (n : ℕ) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
theorem card_birthday_finset (n : ℕ) :
```

File: CombinatorialGames/Game/Birthday.lean [hunk 5]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+  obtain ⟨xl, xr, ⟨⟨hxl, hxr⟩, rfl⟩⟩ := hnx
+  cases hy with
+  | inl hy =>
+    rw [leftMoves_ofSets, Finset.mem_coe] at hy
+    exact hxl hy
+  | inr hy =>
+    rw [rightMoves_ofSets, Finset.mem_coe] at hy
+    exact hxr hy
+
+theorem birthday_le_mem_birthday_finset {x : IGame.{u}} {n : ℕ} (hxn : x.birthday ≤ n) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
theorem mem_birthday_finset_of_birthday_le {x : IGame.{u}} {n : ℕ} (hxn : x.birthday ≤ n) :
```

File: CombinatorialGames/Game/Birthday.lean [hunk 6]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+    have hxl : x.leftMoves ⊆ birthday_finset k := (hx · <| IsOption.of_mem_leftMoves ·)
+    have hxr : x.rightMoves ⊆ birthday_finset k := (hx · <| IsOption.of_mem_rightMoves ·)
+    classical
+    have := Set.fintypeSubset _ hxl
+    have := Set.fintypeSubset _ hxr
+    use x.leftMoves.toFinset, x.rightMoves.toFinset
+    simp_rw [toFinset_subset, coe_toFinset, ofSets_leftMoves_rightMoves, and_true]
+    exact union_subset_iff.mp hx
+
+theorem birthday_finset_mem_birthday_le {x : IGame} {n : ℕ} (hxn : x ∈ birthday_finset n) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
theorem birthday_le_of_mem_birthday_finset {x : IGame} {n : ℕ} (hxn : x ∈ birthday_finset n) :
```

File: CombinatorialGames/Game/Birthday.lean [hunk 7]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+    · have : y.birthday ≤ k := by
+        rw [← hlr, leftMoves_ofSets, Finset.mem_coe] at hy
+        exact birthday_finset_mem_birthday_le <| hl hy
+      exact lt_add_one_iff.mpr this
+    · have : y.birthday ≤ k := by
+        rw [← hlr, rightMoves_ofSets, Finset.mem_coe] at hy
+        exact birthday_finset_mem_birthday_le <| hr hy
+      exact lt_add_one_iff.mpr this
+
+theorem birthday_finset_mem_iff_birthday_le {x : IGame} {n : ℕ} :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
@[simp] theorem mem_birthday_finset {x : IGame} {n : ℕ} :
```

File: CombinatorialGames/Game/Birthday.lean [hunk 8]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+    x ∈ birthday_finset n ↔ x.birthday ≤ n :=
+  ⟨birthday_finset_mem_birthday_le, birthday_le_mem_birthday_finset⟩
+
+theorem birthday_finset_subset (n : ℕ) : (birthday_finset n) ⊆ (birthday_finset (n + 1)) := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: You can strengthen this to

```suggestion
theorem birthday_finset_strictMono {n : ℕ} : StrictMono birthday_finset := by
```

File: CombinatorialGames/Game/Birthday.lean [hunk 9]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+  intro x hx
+  apply birthday_le_mem_birthday_finset
+  rw [birthday_finset_mem_iff_birthday_le] at hx
+  apply hx.trans
+  rw [Nat.cast_add, Nat.cast_one, le_add_iff_nonneg_right]
+  exact zero_le_one
+
+theorem birthday_finset_eq (n : ℕ) : birthday_finset n = { x : IGame | x.birthday ≤ n } := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: This seems unnecessary, its proof would just be `ext; simp` after making `mem_birthday_finset` a simp lemma.

File: CombinatorialGames/Game/Birthday.lean [hunk 10]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+  ext x
+  rw [Finset.mem_coe, birthday_finset_mem_iff_birthday_le]
+  exact Eq.to_iff rfl
+
+theorem leftMoves_finite_birthday_nat {x : IGame} (hx : x.birthday < Ordinal.omega0)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: There's some def-eq abuse here, you're comparing an `Ordinal` to a `NatOrdinal`. Perhaps you can introduce local notation for `Ordinal.omega0.toNatOrdinal`?

File: CombinatorialGames/Game/Birthday.lean [hunk 11]
```diff
@@ -224,7 +231,168 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+  | succ n =>
+    obtain ⟨l, _, ⟨hl, _, h⟩⟩ := birthday_finset_mem_succ_iff.mp <| birthday_le_mem_birthday_finset hn
+    rw [leftMoves_ofSets]
+    exact Finset.finite_toSet l
+
+theorem rightMoves_finite_birthday_nat {x : IGame}
+    (hx : x.birthday < Ordinal.omega0)
+    : x.rightMoves.Finite := by
+  rw [← birthday_neg] at hx
+  rw [show x.rightMoves = -(-x).leftMoves by rw [involutiveNeg, leftMoves_neg, neg_neg],
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
  rw [show x.rightMoves = -(-x).leftMoves by simp
```
Does this not work? In fact, is this not an existing theorem already?

**Review by vihdzp — COMMENTED** [review]
Some preliminary remarks. I'll try golfing the proofs once I get home today.

File: CombinatorialGames/Game/Birthday.lean (hunk 11 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Birthday.lean]: I can't see an exact theorem, but `simp` works fine :+1:

File: CombinatorialGames/Game/Birthday.lean (hunk 10 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Birthday.lean]: I may not want to introduce it as notation, as I also need to prove certain corollaries (`NatOrdinal.lt_omega0`, etc..), since otherwise, I would have to `apply_fun` and use order isomorphism lemmas to lift myself back to `NatOrdinal.toOrdinal x.birthday < Ordinal.omega0`.

Would it be better to just have a new `NatOrdinal.omega0`, both that and new notation, or just new notation?

Comment (vihdzp) [reply CombinatorialGames/Game/Birthday.lean]: I don't really like the idea of having `NatOrdinal.omega0`, on the basis that in order to use this definition we'd have to unfold it almost all of the time.

File: CombinatorialGames/Game/Birthday.lean [hunk 12]
```diff
@@ -97,6 +97,13 @@ theorem birthday_lt_of_mem_rightMoves {x y : IGame} (hy : y ∈ x.rightMoves) :
     y.birthday < x.birthday :=
   lt_birthday_iff.2 (.inr ⟨y, hy, le_rfl⟩)
 
+@[aesop apply unsafe 50%]
+theorem birthday_lt_of_mem_option {x y : IGame} (hy : IsOption y x) :
+    y.birthday < x.birthday := by
+  cases hy with
+  | inl h => exact birthday_lt_of_mem_leftMoves h
+  | inr h => exact birthday_lt_of_mem_rightMoves h
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: This also works:
```suggestion
  rw [IsOption] at hy
  aesop
```

File: CombinatorialGames/Game/Birthday.lean [hunk 13]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
   exact fun x (hx : x.birthday < _) ↦ le_of_lt hx
 
--- TODO: short game iff finite birthday
+/-- The finset of all games with birthday ≤ n. -/
+noncomputable def birthdayFinset : ℕ → Finset IGame.{u}
+  | 0 => {0}
+  | n + 1 => ((birthdayFinset n).powerset ×ˢ (birthdayFinset n).powerset).map
+    ⟨fun ⟨a, b⟩ => {a | b}ᴵ, fun a b hab => by aesop⟩
+
+theorem birthdayFinset_mem_succ_iff {x : IGame} {n : ℕ} :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
theorem mem_birthdayFinset_succ {x : IGame} {n : ℕ} :
```

File: CombinatorialGames/Game/Birthday.lean [hunk 14]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+  x ∈ birthdayFinset (n + 1) ↔
+    ∃ l r, (l ⊆ birthdayFinset n ∧ r ⊆ birthdayFinset n) ∧ {↑l | ↑r}ᴵ = x := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
    ∃ l r, (l ⊆ birthdayFinset n ∧ r ⊆ birthdayFinset n) ∧ {l | r}ᴵ = x := by
```

File: CombinatorialGames/Game/Birthday.lean [hunk 15]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
   apply @small_subset _ _ _ _ (small_setOf_birthday_le o)
   exact fun x (hx : x.birthday < _) ↦ le_of_lt hx
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean:263]: Maybe this can be a subsection? There's a lot of material here.
```suggestion

/-! #### Short games -/

```

File: CombinatorialGames/Game/Birthday.lean [hunk 16]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+    ⟨fun ⟨a, b⟩ => {a | b}ᴵ, fun a b hab => by aesop⟩
+
+theorem birthdayFinset_mem_succ_iff {x : IGame} {n : ℕ} :
+  x ∈ birthdayFinset (n + 1) ↔
+    ∃ l r, (l ⊆ birthdayFinset n ∧ r ⊆ birthdayFinset n) ∧ {↑l | ↑r}ᴵ = x := by
+  simp [birthdayFinset]
+
+@[simp] theorem birthdayFinset_zero : birthdayFinset 0 = {0} := rfl
+
+@[simp] theorem card_birthdayFinset_one : (birthdayFinset 1).card = 4 := by simp [birthdayFinset]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: Something interesting is that we actually have names for all the games of birthday ≤1. In fact, check this out:
```lean 4
@[simp]
theorem Set.empty_ne_singleton {α : Type*} (a : α) : ∅ ≠ ({a} : Set α) :=
  (Set.singleton_ne_empty a).symm

theorem birthdayFinset_one :
    birthdayFinset 1 = ⟨[0, 1, -1, ⋆], by aesop (add simp [IGame.ext_iff])⟩ := by
  ext
  rw [birthdayFinset_mem_succ_iff]
  aesop (add simp [IGame.ext_iff])
```
You can add it into the PR, or we can do this in a separate PR, however you prefer.

File: CombinatorialGames/Game/Birthday.lean [hunk 17]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+
+@[simp]
+theorem card_birthdayFinset (n : ℕ) :
+    (birthdayFinset.{u} (n + 1)).card = 4 ^ (birthdayFinset.{u} n).card := by
+  rw [birthdayFinset, Finset.card_map, Finset.card_product, Finset.card_powerset, ← mul_pow]
+  simp only [Nat.reduceMul]
+
+theorem birthday_finset_option {x y : IGame} {n : ℕ} (hnx : x ∈ birthdayFinset (n + 1))
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
theorem mem_birthdayFinset_of_isOption {x y : IGame} {n : ℕ} (hnx : x ∈ birthdayFinset (n + 1))
```

File: CombinatorialGames/Game/Birthday.lean [hunk 18]
```diff
@@ -97,6 +97,13 @@ theorem birthday_lt_of_mem_rightMoves {x y : IGame} (hy : y ∈ x.rightMoves) :
     y.birthday < x.birthday :=
   lt_birthday_iff.2 (.inr ⟨y, hy, le_rfl⟩)
 
+@[aesop apply unsafe 50%]
+theorem birthday_lt_of_mem_option {x y : IGame} (hy : IsOption y x) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
theorem birthday_lt_of_isOption {x y : IGame} (hy : IsOption y x) :
```

File: CombinatorialGames/Game/Birthday.lean [hunk 19]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+    (hy : IsOption y x) : y ∈ birthdayFinset n := by
+  rw [birthdayFinset_mem_succ_iff] at hnx
+  obtain ⟨xl, xr, ⟨⟨hxl, hxr⟩, rfl⟩⟩ := hnx
+  cases hy with
+  | inl hy =>
+    rw [leftMoves_ofSets, Finset.mem_coe] at hy
+    exact hxl hy
+  | inr hy =>
+    rw [rightMoves_ofSets, Finset.mem_coe] at hy
+    exact hxr hy
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
  aesop
```

**Review by vihdzp — COMMENTED** [review]
More remarks.

File: CombinatorialGames/Game/Birthday.lean [hunk 20]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+
+@[simp] theorem birthdayFinset_zero : birthdayFinset 0 = {0} := rfl
+
+@[simp] theorem card_birthdayFinset_one : (birthdayFinset 1).card = 4 := by simp [birthdayFinset]
+
+@[simp]
+theorem card_birthdayFinset (n : ℕ) :
+    (birthdayFinset.{u} (n + 1)).card = 4 ^ (birthdayFinset.{u} n).card := by
+  rw [birthdayFinset, Finset.card_map, Finset.card_product, Finset.card_powerset, ← mul_pow]
+  simp only [Nat.reduceMul]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
  rfl
```

File: CombinatorialGames/Game/Birthday.lean (hunk 16 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Birthday.lean]: I can add it into here :+1:

File: CombinatorialGames/Game/Birthday.lean [hunk 21]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+        exact birthday_le_of_mem_birthdayFinset <| hl hy
+      exact lt_add_one_iff.mpr this
+    · have : y.birthday ≤ k := by
+        rw [← hlr, rightMoves_ofSets, Finset.mem_coe] at hy
+        exact birthday_le_of_mem_birthdayFinset <| hr hy
+      exact lt_add_one_iff.mpr this
+
+@[simp] theorem mem_birthdayFinset {x : IGame} {n : ℕ} :
+    x ∈ birthdayFinset n ↔ x.birthday ≤ n :=
+  ⟨birthday_le_of_mem_birthdayFinset, mem_birthdayFinset_of_birthday_le⟩
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: I think it's actually a bit cleaner if instead of proving both directions as separate lemmas, we do them at once:
```suggestion
@[simp]
theorem mem_birthdayFinset {x : IGame} {n : ℕ} : x ∈ birthdayFinset n ↔ x.birthday ≤ n := by
  induction n generalizing x with
  | zero => simp
  | succ n IH =>
    simp_rw [birthdayFinset_mem_succ_iff, birthday_le_iff, Finset.subset_iff, Nat.cast_add_one,
      ← succ_eq_add_one, lt_succ_iff, IH]
    constructor
    · aesop
    · rintro ⟨hl, hr⟩
      have hxl : x.leftMoves ⊆ birthdayFinset n := by intro y; simp_all
      have hxr : x.rightMoves ⊆ birthdayFinset n := by intro y; simp_all
      classical
      have := Set.fintypeSubset _ hxl
      have := Set.fintypeSubset _ hxr
      use x.leftMoves.toFinset, x.rightMoves.toFinset
      aesop
```

File: CombinatorialGames/Game/Birthday.lean [hunk 22]
```diff
@@ -224,7 +231,174 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+    rw [Nat.cast_le]
+    exact Nat.le_add_right n 1
+  · rw [Finset.not_subset]
+    induction n with
+    | zero =>
+      refine ⟨1, by simp, by simp⟩
+    | succ n hn =>
+      obtain ⟨g, hg⟩ := hn
+      use g + 1
+      constructor <;> simp_all
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: Some golfing. Gave an alternate proof for the `⊈` direction based on the fact `(birthdayFinset (n + 1)).card > (birthdayFinset n).card`, up to you which one you prefer.
```suggestion
theorem strictMono_birthdayFinset : StrictMono birthdayFinset := by
  refine strictMono_nat_of_lt_succ fun n ↦ ⟨fun y hy ↦ ?_, fun h ↦ ?_⟩
  · rw [mem_birthdayFinset] at *
    apply hy.trans
    simp
  · have := Finset.card_le_card h
    rw [card_birthdayFinset] at this
    exact (Nat.lt_pow_self (Nat.one_lt_succ_succ 2)).not_le this
```

File: CombinatorialGames/Game/Birthday.lean (hunk 10 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Birthday.lean]: We probably should add this theorem:
```lean 4
theorem NatOrdinal.lt_omega0 {o : NatOrdinal} :
    o < Ordinal.omega0.toNatOrdinal ↔ ∃ n : ℕ, o = n := by
  rw [← o.toOrdinal_toNatOrdinal, OrderIso.lt_iff_lt, Ordinal.lt_omega0]
  simp [← toOrdinal_cast_nat]
```
It kind of sucks how annoying `NatOrdinal` is to work with. Perhaps we could also add lemmas like `toOrdinal x < y ↔ x < toNatOrdinal` and the like, so we don't have to go through the dance of inserting `toOrdinal (toNatOrdinal o)` all over the place.

Comment (vihdzp) [reply CombinatorialGames/Game/Birthday.lean]: With that auxiliary theorem, I present the following golf:
```lean 4
theorem finite_setOf_isOption_of_birthday_lt_omega0 {x : IGame}
    (hx : x.birthday < Ordinal.omega0.toNatOrdinal) : {y | IsOption y x}.Finite := by
  simp_rw [NatOrdinal.lt_omega0] at hx
  obtain ⟨n, hn⟩ := hx
  apply (birthdayFinset n).finite_toSet.subset fun y hy ↦ ?_
  simpa using (birthday_lt_of_mem_option hy).le.trans_eq hn

theorem finite_leftMoves_of_birthday_lt_omega0 {x : IGame}
    (hx : x.birthday < Ordinal.omega0.toNatOrdinal) : x.leftMoves.Finite :=
  (finite_setOf_isOption_of_birthday_lt_omega0 hx).subset fun _ ↦ Or.inl

theorem finite_rightMoves_of_birthday_lt_omega0 {x : IGame}
    (hx : x.birthday < Ordinal.omega0.toNatOrdinal) : x.rightMoves.Finite :=
  (finite_setOf_isOption_of_birthday_lt_omega0 hx).subset fun _ ↦ Or.inr
```

**Comment by vihdzp** [comment]
I've been working on golfing the last proof. I've made good progress, but in doing so I've also found we're missing a bunch of useful theorems. I'll make a new PR to add those, if you're ok with that.

File: CombinatorialGames/Game/Birthday.lean (hunk 10 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Birthday.lean]: In fact, with the theorem `birthday_lt_of_subposition` I added in #96, we can prove the even stronger result
```lean 4
theorem finite_setOf_subposition_of_birthday_lt_omega0 {x : IGame}
    (hx : x.birthday < Ordinal.omega0.toNatOrdinal) : {y | Subposition y x}.Finite := by
  simp_rw [NatOrdinal.lt_omega0] at hx
  obtain ⟨n, hn⟩ := hx
  apply (birthdayFinset n).finite_toSet.subset fun y hy ↦ ?_
  simpa using (birthday_lt_of_subposition hy).le.trans_eq hn
```
which then lets us golf `finite_setOf_isOption_of_birthday_lt_omega0` down to
```lean 4
theorem finite_setOf_isOption_of_birthday_lt_omega0 {x : IGame}
    (hx : x.birthday < Ordinal.omega0.toNatOrdinal) : {y | IsOption y x}.Finite :=
  (finite_setOf_subposition_of_birthday_lt_omega0 hx).subset fun _ h ↦ Relation.TransGen.single h
```

**Comment by vihdzp** [comment]
Using my suggested theorems, we can golf the main result of this PR down to:
```lean 4
theorem short_iff_birthday_finite {x : IGame} :
    x.Short ↔ x.birthday < Ordinal.omega0.toNatOrdinal := by
  constructor
  · intro h
    have (y : {y // IsOption y x}) : ∃ n : ℕ, birthday y = n := by
      rw [← NatOrdinal.lt_omega0, ← short_iff_birthday_finite]
      exact h.isOption y.2
    choose f hf using this
    obtain ⟨n, hn⟩ := (finite_range f).exists_le
    apply lt_of_le_of_lt _ (NatOrdinal.nat_lt_omega0 (n + 1))
    rw [birthday_le_iff', Nat.cast_add_one, ← succ_eq_add_one]
    aesop
  · rw [NatOrdinal.lt_omega0, short_iff_finite_setOf_subposition]
    rintro ⟨n, hn⟩
    apply finite_setOf_subposition_of_birthday_lt_omega0
    rw [hn]
    exact NatOrdinal.nat_lt_omega0 n
termination_by x
decreasing_by igame_wf
```

File: CombinatorialGames/Game/Birthday.lean [hunk 23]
```diff
@@ -261,7 +261,15 @@ theorem mem_birthdayFinset_succ {x : IGame} {n : ℕ} : x ∈ birthdayFinset (n
 
 @[simp] theorem birthdayFinset_zero : birthdayFinset 0 = {0} := rfl
 
-@[simp] theorem card_birthdayFinset_one : (birthdayFinset 1).card = 4 := by simp [birthdayFinset]
+@[simp]
+theorem Set.empty_ne_singleton {α : Type*} (a : α) : ∅ ≠ ({a} : Set α) :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: This should be upstreamed to Mathlib, alongside the analogous `Finset` theorem. I'd do it myself, but I haven't figured out how the new contribution system works...

File: CombinatorialGames/Game/Birthday.lean [hunk 24]
```diff
@@ -247,7 +247,131 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+theorem card_birthdayFinset (n : ℕ) :
+    (birthdayFinset.{u} (n + 1)).card = 4 ^ (birthdayFinset.{u} n).card := by
+  rw [birthdayFinset, Finset.card_map, Finset.card_product, Finset.card_powerset, ← mul_pow]
+  rfl
+
+theorem mem_birthdayFinset_of_isOption {x y : IGame} {n : ℕ} (hnx : x ∈ birthdayFinset (n + 1))
+    (hy : IsOption y x) : y ∈ birthdayFinset n := by
+  rw [mem_birthdayFinset_succ] at hnx
+  obtain ⟨xl, xr, ⟨⟨hxl, hxr⟩, rfl⟩⟩ := hnx
+  aesop (add simp [IsOption])
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]:
```suggestion
  aesop
```

**Comment by tristan-f-r** [comment]
Hm, I messed up somewhere. I'm missing the two self-explanatory theorems `Set.range.exists_le` theorem and `NatOrdinal.nat_lt_omega0`.

**Comment by vihdzp** [comment]
`Set.Finite.exists_le` requires a new import `import Mathlib.Data.Fintype.Order`. I wrote down `NatOrdinal.lt_omega0` somewhere, but I might as well write it down again here
```lean 4
theorem NatOrdinal.lt_omega0 {o : NatOrdinal} :
    o < Ordinal.omega0.toNatOrdinal ↔ ∃ n : ℕ, o = n := by
  rw [← o.toOrdinal_toNatOrdinal, OrderIso.lt_iff_lt, Ordinal.lt_omega0]
  simp [← toOrdinal_cast_nat]
```

File: CombinatorialGames/Game/Birthday.lean (hunk 24 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Birthday.lean]: `aesop (add simp [mem_birthdayFinset_succ])`? or `rw [mem_birthdayFinset_succ] at hnx; aesop` - `aesop` isn't recognizing `mem_birthdayFinset_succ` here.

File: CombinatorialGames/Game/Birthday.lean [hunk 25]
```diff
@@ -247,7 +261,120 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+  | 0 => {0}
+  | n + 1 => ((birthdayFinset n).powerset ×ˢ (birthdayFinset n).powerset).map
+    ⟨fun ⟨a, b⟩ => {a | b}ᴵ, fun a b hab => by aesop⟩
+
+theorem mem_birthdayFinset_succ {x : IGame} {n : ℕ} : x ∈ birthdayFinset (n + 1) ↔
+    ∃ l r, (l ⊆ birthdayFinset n ∧ r ⊆ birthdayFinset n) ∧ {l | r}ᴵ = x := by
+  simp [birthdayFinset]
+
+@[simp] theorem birthdayFinset_zero : birthdayFinset 0 = {0} := rfl
+
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean:277]: I think there's an extra space here
```suggestion
```

File: CombinatorialGames/Game/Birthday.lean [hunk 26]
```diff
@@ -247,7 +261,120 @@ instance small_setOf_birthday_lt (o : NatOrdinal.{u}) : Small.{u} {x // birthday
...
+theorem strictMono_birthdayFinset : StrictMono birthdayFinset := by
+  refine strictMono_nat_of_lt_succ fun n ↦ ⟨fun y hy ↦ ?_, fun h ↦ ?_⟩
+  · rw [mem_birthdayFinset] at *
+    apply hy.trans
+    simp
+  · have := Finset.card_le_card h
+    rw [card_birthdayFinset] at this
+    exact (Nat.lt_pow_self (Nat.one_lt_succ_succ 2)).not_le this
+
+theorem finite_setOf_subposition_of_birthday_lt_omega0 {x : IGame}
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: I feel a bit silly only now realizing this, but I don't think we should have these theorems. After all, our goal is to show the `x.birthday < ω` condition is equivalent to `Short x`, and we already have these theorems for `Short`!

I propose `finite_setOf_subposition_of_birthday_lt_omega0` either gets privated or inlined into `short_iff_finite_birthday`. The other three theorems below this can simply be deleted.

Comment (tristan-f-r) [reply CombinatorialGames/Game/Birthday.lean]: Since `short_iff_birthday_finite` is conway-inductive but `finite_setOf_subposition_of_birthday_lt_omega0` isn't, I do like the stylistic appeal of having these be private :+1:

**Review by vihdzp — APPROVED** [review]
We really do make a team, the PR has nearly halved in length!
